Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
CC(C)(C)OC(=O)[N:1]1[CH2:2][CH2:3][CH:4]([NH:5][c:6]2[cH:7][cH:8][c:9]([Cl:10])[cH:11][cH:12]2)[CH2:13][CH2:14]1>>[NH:1]1[CH2:2][CH2:3][CH:4]([NH:5][c:6]2[cH:7][cH:8][c:9]([Cl:10])[cH:11][cH:12]2)[CH2:13][CH2:14]1,[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[N:1]1[CH2:2][CH2:3][CH:4]([NH:5][c:6]2[cH:7][cH:8][c:9]([Cl:10])[cH:11][cH:12]2)[CH2:13][CH2:14]1.[H+:301]>>[NH:1]1[CH2:2][CH2:3][CH:4]([NH:5][c:6]2[cH:7][cH:8][c:9]([Cl:10])[cH:11][cH:12]2)[CH2:13][CH2:14]1,Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)OC(=O)[NH:1][C:2]1([c:3]2[cH:30][cH:29][c:6](-[c:7]3[o:8][c:9]4[c:10]([c:11](=[O:12])[n:13]([CH2:14][CH3:15])[c:16]([NH:17][CH2:18][CH2:19][OH:20])[n:21]4)[c:22]3-[c:23]3[cH:24][cH:25][cH:26][cH:27][cH:28]3)[cH:5][cH:4]2)[CH2:33][CH2:32][CH2:31]1>>[NH2:1][C:2]1([c:3]2[cH:4][cH:5][c:6](-[c:7]3[o:8][c:9]4[c:10]([c:11](=[O:12])[n:13]([CH2:14][CH3:15])[c:16]([NH:17][CH2:18][CH2:19][OH:20])[n:21]4)[c:22]3-[c:23]3[cH:24][cH:25][cH:26][cH:27][cH:28]3)[cH:29][cH:30]2)[CH2:31][CH2:32][CH2:33]1,[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[NH:1][C:2]1([c:3]2[cH:4][cH:5][c:6](-[c:7]3[o:8][c:9]4[c:10]([c:11](=[O:12])[n:13]([CH2:14][CH3:15])[c:16]([NH:17][CH2:18][CH2:19][OH:20])[n:21]4)[c:22]3-[c:23]3[cH:24][cH:25][cH:26][cH:27][cH:28]3)[cH:29][cH:30]2)[CH2:31][CH2:32][CH2:33]1.[H+:301]>>[NH2:1][C:2]1([c:3]2[cH:4][cH:5][c:6](-[c:7]3[o:8][c:9]4[c:10]([c:11](=[O:12])[n:13]([CH2:14][CH3:15])[c:16]([NH:17][CH2:18][CH2:19][OH:20])[n:21]4)[c:22]3-[c:23]3[cH:24][cH:25][cH:26][cH:27][cH:28]3)[cH:29][cH:30]2)[CH2:31][CH2:32][CH2:33]1,Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[CH:1][c:2]1[cH:3][cH:4][c:5]2[n:6][cH:7][n:8][c:9]([NH:10][CH3:11])[c:12]2[cH:13]1.[O:14]=[C:15]1[CH2:16][S:17][C:18](=[O:19])[NH:20]1>>[CH:1]([c:2]1[cH:3][cH:4][c:5]2[n:6][cH:7][n:8][c:9]([NH:10][CH3:11])[c:12]2[cH:13]1)=[C:16]1[C:15](=[O:14])[NH:20][C:18](=[O:19])[S:17]1,[O:101]=[CH:1][c:2]1[cH:3][cH:4][c:5]2[n:6][cH:7][n:8][c:9]([NH:10][CH3:11])[c:12]2[cH:13]1.[O:14]=[C:15]1[CH2:16][S:17][C:18](=[O:19])[NH:20]1.[OH-:301]>>[CH:1]([c:2]1[cH:3][cH:4][c:5]2[n:6][cH:7][n:8][c:9]([NH:10][CH3:11])[c:12]2[cH:13]1)=[C:16]1[C:15](=[O:14])[NH:20][C:18](=[O:19])[S:17]1,aldol_condensation,"[(301, 16.1), ([16.1, 16], [16, 15]), ([15, 14], 14), (14, [14, 15]), ([15, 16], 1), ([1, 101], 101), (101, 301.1), ([301.1, 301], 301), (301, 16.1), ([16.1, 16], [16, 15]), ([15, 14], 14), (14, [14, 15]), ([15, 16], [16, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH2:1][CH2:2][O:3][CH3:4].[CH3:5][O:6][C:7](=[O:8])[c:9]1[s:10][c:11]([C:12]#[C:13][C:14]([CH3:15])([CH3:16])[CH3:17])[cH:18][c:19]1[NH:20][C:21](=[O:22])[c:23]1[cH:24][cH:25][c:26]([Cl:27])[cH:28][c:29]1[Cl:30]>>[CH2:1]([CH2:2][O:3][CH3:4])[N:20]([c:19]1[c:9]([C:7]([O:6][CH3:5])=[O:8])[s:10][c:11]([C:12]#[C:13][C:14]([CH3:15])([CH3:16])[CH3:17])[cH:18]1)[C:21](=[O:22])[c:23]1[cH:24][cH:25][c:26]([Cl:27])[cH:28][c:29]1[Cl:30],[CH3:5][O:6][C:7](=[O:8])[c:9]1[s:10][c:11]([C:12]#[C:13][C:14]([CH3:15])([CH3:16])[CH3:17])[cH:18][c:19]1[NH:20][C:21](=[O:22])[c:23]1[cH:24][cH:25][c:26]([Cl:27])[cH:28][c:29]1[Cl:30].[Br:101][CH2:1][CH2:2][O:3][CH3:4]>>[CH2:1]([CH2:2][O:3][CH3:4])[N:20]([c:19]1[c:9]([C:7]([O:6][CH3:5])=[O:8])[s:10][c:11]([C:12]#[C:13][C:14]([CH3:15])([CH3:16])[CH3:17])[cH:18]1)[C:21](=[O:22])[c:23]1[cH:24][cH:25][c:26]([Cl:27])[cH:28][c:29]1[Cl:30],SN2,"[(20, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
